US04423049
8-(2-Pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane Bromide (IIIb')
A mixture of 1-(2-pyrimidinyl)piperazine (32.8 g; 0.2 mole), 1,4-dibromobutane (108 g; 0.5 mole) and finely powdered sodium carbonate (21.2 g, 0.2 mole) in 400 mL isopropanol was stirred and refluxed for a 16 hr period. The hot reaction mixture was filtered and the filtrate, on standing at room temperature, provided 50.3 g (84% yield) of product. Crystallization of this material from isopropanol affords analytically pure product, m.p. 241.5°-242.5° C. (corr.).

reactant | 1-(2-pyrimidinyl)piperazine | 0.2 mole, 32.8 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 1,4-dibromobutane | 0.5 mole, 108 g | BrCCCCBr | C4H8Br2
reactant | sodium carbonate | 0.2 mole, 21.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | 400 mL | C(C)(C)O | C3H8O
product | 8-(2-Pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane Bromide | 50.3 g, 84% yield | [Br-].N1=C(N=CC=C1)N1CC[N+]2(CCCC2)CC1 | InChI=1S/C12H19N4.BrH/c1-2-9-16(8-1)10-6-15(7-11-16)12-13-4-3-5-14-12;/h3-5H,1-2,6-11H2;1H/q+1;/p-1
